US07781436B2
2-{6-Chloro-3-[4-(2,3-dihydro-benzofuran-7-yl)-piperidine-1-carbonyl]-indol-1-yl}-acetamide
Analogous to general procedure I, the coupling of {6-chloro-3-[4-(2,3-dihydro-benzofuran-7-yl)-piperidine-1-carbonyl]-indol-1-yl}-acetic acid (prepared herein) with (commercially available) ammonia in THF, gave the title compound.

reactant | {6-chloro-3-[4-(2,3-dihydro-benzofuran-7-yl)-piperidine-1-carbonyl]-indol-1-yl}-acetic acid | ClC1=CC=C2C(=CN(C2=C1)CC(=O)O)C(=O)N1CCC(CC1)C1=CC=CC=2CCOC21 | C24H23ClN2O4
reactant | ammonia | N | H3N
solvent | THF | C1CCOC1 | C4H8O
product | 2-{6-Chloro-3-[4-(2,3-dihydro-benzofuran-7-yl)-piperidine-1-carbonyl]-indol-1-yl}-acetamide | ClC1=CC=C2C(=CN(C2=C1)CC(=O)N)C(=O)N1CCC(CC1)C1=CC=CC=2CCOC21 | C24H24ClN3O3
